US04713457
2-Ethyl-4-methyl-1-(6-methylergolin-8β-ylmethyl)imidazole
1.6 g of 50% sodium hydride in an oil was added in small portions to a mixture of 9.0 g of 2-ethyl-4-methylimidazole and 70 ml of dimethylformamide, and the resulting mixture was stirred for 30 minutes. 4.1 g of 6-methylergolin-8β-ylmethyl tosylate was added to the mixture which was then heated on a water bath for 2 hours. The solvent was distilled off under reduced pressure, and water was added to the resulting residue. The precipitated crystals were separated by filtration, washed with water and recrystallized from methanol to obtain 1.0 g of the titled compound as colorless needles having a melting point of 172°-174° C.

reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | 2-ethyl-4-methylimidazole | 9.0 g | C(C)C=1NC=C(N1)C | C6H10N2
reactant | 6-methylergolin-8β-ylmethyl tosylate | 4.1 g | S(=O)(=O)(OC[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C)C3=CC=C(C)C=C3 | C23H26N2O3S
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 2-Ethyl-4-methyl-1-(6-methylergolin-8β-ylmethyl)imidazole | 1.0 g | C(C)C=1N(C=C(N1)C)C[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C | C22H28N4
